US06702705B1
5′-O-(4-Methylbenzoyl)uridine (69)
4-Methylbenzoyl chloride (10 mmol) is added to a solution of uridine (10 mmol) in 20 mL of pyridine. After no further progress occurs as observed by TLC, the volatile components are evaporated in vacuo. The residue is purified using flash chromatography to give the product as a colorless oil.

reactant | 4-Methylbenzoyl chloride | 10 mmol | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | uridine | 10 mmol | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5′-O-(4-Methylbenzoyl)uridine | CC1=CC=C(C(=O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N2C(=O)NC(=O)C=C2)O)O)C=C1 | C17H18N2O7
